US07011838B2
First, 0.2 g of (2-(4-(1,2-dibromoethyl)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (43)) was dissolved in 5 ml of N,N-dimethylformamide, to which 0.1 g of potassium t-butoxide was added, while stirring under ice cooling. After stirring for 5 hours at room temperature, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was successively washed with water, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.05 g of 2-(4-(2-bromovinyl)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (58)).

reactant | 2-(4-(1,2-dibromoethyl)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile | BrC(CBr)C1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C15H13Br2F3N2
reactant | potassium t-butoxide | 0.1 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-(2-bromovinyl)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.05 g, Yield: 41% | BrC=CC1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C15H12BrF3N2
